US03989689
The starting material is prepared as follows: Through the suspension of 500 g of 4-chloroanthranilic acid in 3 lt of methanol hydrogen chloride is bubbled for 2 hours while cooling with ice and the mixture refluxed for 10 hours under hydrogen chloride. It is cooled to room temperature, filtered, the filtrate evaporated and the combined residues partitioned between 3 lt of diethyl ether and 4.5 lt of water, the pH of which is adjusted to 10 with 10% aqueous sodium hydroxide. The aqueous layer is extracted 3 times with 2.25 lt of diethyl ether, the combined extracts washed with water, dried, filtered and evaporated, to yield the methyl 4-chloroanthranilate melting at 58°-60°.

reactant | 4-chloroanthranilic acid | 500 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | methanol hydrogen chloride | Cl.CO
product | methyl 4-chloroanthranilate | ClC=1C=C(C(C(=O)OC)=CC1)N | C8H8ClNO2
